US06897208B2
389 mg of sodium metabisulphite are added, at a temperature in the region of 20° C., to a solution of 300 mg of 1H-indazole-3-carboxaldehyde and 279 mg of 4,5-dimethyl-1,2-phenylenediamine in 3 ml of dimethylformamide. The reaction mixture is refluxed for 4 hours and then cooled to a temperature in the region of 20° C. and filtered through paper. The collected filtrate is concentrated under reduced pressure. The brown lacquer obtained (340 mg) is purified by preparative LC-MS. 138.8 mg of 5,6-dimethyl-2-(1H-indazol-3-yl)-1H-benzimidazole are thus obtained in the form of a beige-coloured powder.

reactant | sodium metabisulphite | 389 mg | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1H-indazole-3-carboxaldehyde | 300 mg | N1N=C(C2=CC=CC=C12)C=O | C8H6N2O
reactant | 4,5-dimethyl-1,2-phenylenediamine | 279 mg | CC1=CC(=C(C=C1C)N)N | C8H12N2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(1H-indazol-3-yl)-1H-benzimidazole | 138.8 mg | CC1=CC2=C(NC(=N2)C2=NNC3=CC=CC=C23)C=C1C | C16H14N4
